US08349880B2
Step N (2): Diisobutylaluminum hydride (1 M in toluene, 17.2 mL, 17.1 mmol) was added to a −78° C. solution of ethyl 1-(2-methoxy-4-nitrophenyl)-1H-imidazole-4-carboxylate (2.0 g, 6.9 mmol). After 30 min, the reaction mixture was quenched with 1 N HCl. The mixture was diluted with water and extracted with EtOAc. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified using silica gel column chromatography (EtOAc/hexane) to afford 1-(2-methoxy-4-nitrophenyl)-1H-imidazole-4-carbaldehyde (1.0 g, 59% yield).

reactant | Diisobutylaluminum hydride | 17.1 mmol, 1 M, 17.2 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl 1-(2-methoxy-4-nitrophenyl)-1H-imidazole-4-carboxylate | 6.9 mmol, 2.0 g | COC1=C(C=CC(=C1)[N+](=O)[O-])N1C=NC(=C1)C(=O)OCC | C13H13N3O5
product | 1-(2-methoxy-4-nitrophenyl)-1H-imidazole-4-carbaldehyde | 1.0 g, 59% yield | COC1=C(C=CC(=C1)[N+](=O)[O-])N1C=NC(=C1)C=O | C11H9N3O4
